US03976693
5-Methyl-3-Methoxy-5,6,7,8,9,10,11,12-Octahydro-5,11-Methano-benzocyclodecen-13-One
Oil-free sodium hydride (5.28 g.) in benzene (50 ml.) is added to a stirred mixture of 1,5-dibromopentane (184 g.) and 1-methyl-7-methoxy-2-tetralone (32 g.) in dry benzene (300 ml.). Stirring is continued for 12 hours at 25° and at reflux for an additional 15 hours. The mixture is cooled, sodium hydride (5.8 g.) in 50 ml. benzene added, stirring continued at 25° for 10 hours, and at reflux for 12 additional hours. After cooling excess base is neutralized with concentrated hydrochloric acid and the inorganic solids which precipitate are removed by filtration. Washing and filtrate with saline, drying over sodium sulfate, concentrating and vacuum distilling gives an oil (21 g.), b.p. 160°-190° C. (0.5 mm.) containing 6.5 g. (27%) of the title product by vapor phase chromatography (3% OVI, C200-225-250).

reactant | sodium hydride | 5.28 g | [H-].[Na+]
reactant | 1,5-dibromopentane | 184 g | BrCCCCCBr | C5H10Br2
reactant | 1-methyl-7-methoxy-2-tetralone | 32 g | CC1C(CCC2=CC=C(C=C12)OC)=O | C12H14O2
reactant | sodium hydride | 5.8 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 5-Methyl-3-Methoxy-5,6,7,8,9,10,11,12-Octahydro-5,11-Methano-benzocyclodecen-13-One | 27% | CC12CCCCCC(CC3=C1C=C(C=C3)OC)C2=O | C17H22O2
